US04156006
To 500 ml of dry tetrahydrofuran under N2 there is added 5.0 g of cyclohexanone and then 5.5 ml of TiCl4. Then there is added a mixture of 11.0 ml of triethylamine and 8.5 g of 3-amino-4-nitrobenzenethiol in 105 ml of dry tetrahydrofuran and the mixture is stirred overnight at room temperature. Then there is added 300 ml of H2O and the mixture is extracted with dichloromethane. The organic layers are combined, dried (MgSO4) and evaporated in vacuo. The residue is chromatographed on silica gel. Elution with 1:1 PE-Et2O yields 2.8 g of 4-(1-cyclohexen-1-ylthio)-2-nitrobenzene-amine, m.p. 93°-95° C.

reactant | cyclohexanone | 5.0 g | C1(CCCCC1)=O | C6H10O
reactant | triethylamine | 11.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-amino-4-nitrobenzenethiol | 8.5 g | NC=1C=C(C=CC1[N+](=O)[O-])S | C6H6N2O2S
reactant | H2O | 300 ml | O | H2O
reactant | tetrahydrofuran | 105 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | TiCl4 | 5.5 ml | Cl[Ti](Cl)(Cl)Cl
product | 4-(1-cyclohexen-1-ylthio)-2-nitrobenzene-amine | 2.8 g | C1(=CCCCC1)SC1=CC(=C(C=C1)N)[N+](=O)[O-] | C12H14N2O2S
